2166-05-01 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hct 22.1 -> 20.8, received 1 unit PRBC.
   Allergies:
   Amoxicillin
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Levofloxacin - [**2166-4-30**] 08:14 PM
   Ceftriaxone - [**2166-4-30**] 08:16 PM
   Clindamycin - [**2166-5-1**] 04:14 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-5-1**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 107 (102 - 120) bpm
   BP: 95/58(65) {85/49(58) - 113/65(74)} mmHg
   RR: 24 (18 - 41) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  3,696 mL
                                                                  1,602 mL
   PO:
           360 mL
   TF:
   IVF:
                                                                  1,696 mL
                                                                    963 mL
   Blood products:
   279 mL
   Total out:
                                                                    420 mL
                                                                    295 mL
   Urine:
                                                                    420 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,276 mL
                                                                  1,307 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 94%
   ABG: 7.42/37/98.[**Numeric Identifier 248**]/22/0
   PaO2 / FiO2: 98
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   408 K/uL
   6.0 g/dL
   85 mg/dL
   1.0 mg/dL
   22 mEq/L
   2.5 mEq/L
   27 mg/dL
   105 mEq/L
   140 mEq/L
   18.6 %
   20.1 K/uL
        [image002.jpg]
                             [**2166-5-1**]  12:00 AM
                             [**2166-5-1**]  01:12 AM
   WBC
   20.1
   Hct
   18.6
   Plt
   408
   Cr
   1.0
   TropT
   0.05
   TCO2
   25
   Glucose
   85
   Other labs: PT / PTT / INR:16.7/33.7/1.5, CK / CKMB /
   Troponin-T:/5/0.05, Lactic Acid:1.0 mmol/L, Ca++:7.0 mg/dL, Mg++:1.8
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 9063**] is a 65 year old female with a PMH significant for COPD
   on home O2, GERD, and [**Doctor First Name **] admitted for fall and hypoxia secondary to
   pneumonia.
   .
   # Right-Sided Infiltrates: CXR on admission with RML/RLL infiltrates
   concerning for pneumonia in setting of leukocytosis and bandemia.  As
   the patient has no recent hospitalizations and comes from home, was
   treated initially for CAP with ceftriaxone and levofloxacin, which was
   converted to levofloxacin and clindamycin for CAP and aspiration
   coverage.  Patient is at aspiration risk given history of esophageal
   stricture.  No wheezing on exam concerning for COPD exacerbation, and
   patient does not have signs of volume overload.
   - Continue levofloxacin. Would favor holding clindamycin and following
   patient clinically, if decompensates would agree with covering for
   anaerobic.
   - Continue inhalers
   - Wean supplemental O2 as tolerated with goal SaO2 >88%. Baseline O2
   requirement of 2L nc.
   - F/u culture data
   - Speech and swallow study when stable
   .
   # Leukocytosis, tachycardia: Likely secondary to pulmonary infection
   with SIRS physiology.
   - Antimicrobials as above.
   - Trend WBC and fever curve
   - IVF as necessary
   .
   # Lactic Acidosis: Lactate this AM 1 from 3.3 on initial presentation
   after volume rescucitation. Likely in the setting of sepsis as above.
   .
   # Acute Renal Failure: Baseline creatinine of 0.6.  In setting of
   sepsis and decreased effective intravascular volume, likely renal
   hypoperfusion. Urine Na <10, suggestiving volume depletion.
   - Trend creatinine
   - IVF as necessary.
   - Trend UOP.
   .
   # Elevated Troponin: In the setting of renal failure with normal EKG
   and asymptomology.
   - Cycle enzymes
   - Monitor on telemetry
   - Continue ASA
   .
   # Anxiety/Depression: Patient seems to have significant anxiety judging
   by various medications. Would favor judicious use given current
   pulmonary process and concern for lowering respiratory drive with
   benzodiazepines.
   - Continue Celexa, Quetiapine and Duloxetine. Will hold Ativan for now
   .
   # S/P Falls: Appears multifactorial - decreased vision, non-compliance
   with walker, complicated by oxygen tubing and likely acutely worsened
   in the setting of brewing infection. CT head and c-spine without
   bleeding or fractures.
   - PT eval when clinically stable
   - Patient may unsafe to return to independent living.
   .
   # Anemia: History of iron deficiency anemia, confirmed on labs in [**2162**].
   Previously on iron that was stopped for unclear reasons. No colonoscopy
   in our system, but patient has had a history of UGI bleed. Guaiac
   negative in the ED. Hct trended down overnight and the patient received
   1 unit PRBC.
   - Trend hct and transfuse for hct<21 or signs of end organ damage.
   - Maintain active T+S
   - Iron studies.
   .
   FEN: Mechanical softs. Replete as necessary.
   PPx: SCDs
   Code: Full
   Contact: [**Name (NI) 53**]
   Dispo: ICU level of care until respiratory status more stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-4-30**] 09:40 PM
   20 Gauge - [**2166-4-30**] 09:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-05-02 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Spiked to 101.1, recultured
   - CT chest - multi-focal pneumonia, small bilateral pleural effusions.
   Allergies:
   Amoxicillin
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Levofloxacin - [**2166-4-30**] 08:14 PM
   Clindamycin - [**2166-5-1**] 04:14 AM
   Vancomycin - [**2166-5-1**] 09:15 AM
   Ceftriaxone - [**2166-5-1**] 08:15 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-5-1**] 10:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-5-2**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.5
C (97.7
   HR: 112 (97 - 129) bpm
   BP: 114/64(77) {88/54(63) - 139/81(95)} mmHg
   RR: 27 (23 - 39) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  3,438 mL
                                                                    180 mL
   PO:
                                                                  1,380 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,779 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  1,298 mL
                                                                    405 mL
   Urine:
                                                                  1,298 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,140 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   439 K/uL
   7.9 g/dL
   79 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.9 mEq/L
   14 mg/dL
   108 mEq/L
   140 mEq/L
   25.2 %
   23.9 K/uL
        [image002.jpg]
                             [**2166-5-1**]  12:00 AM
                             [**2166-5-1**]  01:12 AM
                             [**2166-5-1**]  06:15 AM
                             [**2166-5-1**]  05:15 PM
                             [**2166-5-2**]  04:00 AM
   WBC
   20.1
   19.5
   23.9
   Hct
   18.6
   22.8
   22.9
   25.2
   Plt
   [**Telephone/Fax (3) 9073**]
   Cr
   1.0
   0.9
   0.8
   TropT
   0.05
   0.03
   TCO2
   25
   Glucose
   85
   93
   79
   Other labs: PT / PTT / INR:16.7/33.7/1.5, CK / CKMB /
   Troponin-T:/6/0.03, Differential-Neuts:90.7 %, Lymph:6.5 %, Mono:2.5 %,
   Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Imaging: CT Chest:
   1. Findings most consistent with multifocal pneumonia without evidence
   of cavitation. Partial right middle and left lower lobe atelectasis.
   Small
   bilateral pleural effusions. Prominent mediastinal lymph nodes, likely
   reactive in nature.
   2. 2.6-cm benign-appearing left adrenal lesion.
   Microbiology: BCx (3/4 bottles): GPC in pairs and chains.
   Assessment and Plan
   Ms. [**Known lastname 9063**] is a 65 year old female with a PMH significant for COPD on
   home O2, GERD, and [**Doctor First Name **] admitted for fall and hypoxia secondary to
   pneumonia.
   .
   # Right-Sided Infiltrates: CXR on admission with RML/RLL infiltrates
   consistent with pneumonia. Given positive blood cultures, likely
   pneumococcal lobar pneumonia with resulting bacteremia, although
   S.aureus cannot be ruled out at this time.  No wheezing on exam
   concerning for COPD exacerbation and patient does not have signs of
   volume overload. Patinet spiked to 101 overnight and was re-cultured.
   Currently on 50% shovel mask and 6L nc.
   - Vanco, levofloxacin, and ceftriaxone.  Plan to narrow coverage when
   culture data returns.
   - Continue breathing treatments
   - Follow-up culture data
   - Speech and swallow when stable
   - Wean supplemental O2 as tolerated with goal SaO2>90%
   .
   # Sepsis: Patient remains tachycardic. Leukocytosis this AM stable.
   Otherwise hemodynamically stable with normalized lactate after volume
   rescucitation.
   - Antimicrobials as above.
   - Trend WBC and fever curve
   - Trend UOP.
   - Goal TBB even to -500 today.
   .
   # Anemia: History of iron deficiency anemia, confirmed on labs in [**2162**].
   Previously on iron that was stopped for unclear reasons. No colonoscopy
   in our system, but patient has had a history of UGI bleed. Guaiac
   negative in the ED. Patient received 1 unit PBRC during LOS. Serum
   Fe/TIBC 3%.
   - Maintain active T+S
   - Continue supplemental ferrous sulfate
   - Outpatient colonoscopy
   - Guaiac stools
   .
   # Acute Renal Failure: Resolved with fluid challenge.
   - Trend creatinine and UOP.
   .
   # Elevated troponins: Unchanged ECG, CK flat with TnT down to 0.03 from
   0.05.  Likely component of demand ischemia in setting of sepsis with
   baseline anemia.
   - Monitor on telemetry
   - Continue ASA
   .
   # Anxiety/Depression: Patient seems to have significant anxiety judging
   by various medications.  Patient has significant benzo requirement
   concerning for withdrawal.
   - Continue Celexa, Quetiapine and Duloxetine.
   - Ativan 2 mg QID for anxiety or signs of withdrawal.
   .
   # S/P Falls: Appears multifactorial - decreased vision, non-compliance
   with walker, complicated by oxygen tubing and likely acutely worsened
   in the setting of brewing infection. CT head and c-spine without
   bleeding or fractures.
   - PT eval when clinically stable
   - Patient may unsafe to return to independent living.
   .
   FEN: Mechanical softs. Replete as necessary.
   PPx: Heparin SQ
   Code: Full (confirmed with patient)
   Contact: [**Name (NI) 53**]
   Dispo: ICU level of care until respiratory status stabilizes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-4-30**] 09:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Gen: NAD
   HEENT: MMM, OP clear
   CV: Nl S1+S2, no m/r/g. JVP 8 cm.
   Pulm: Dullness to percussion at right base.
   Abd: S/NT/ND +bs
   Ext: No c/c/e
   ------ Protected Section Addendum Entered By:[**Name (NI) 2253**] [**Last Name (NamePattern1) 3342**], MD
   on:[**2166-5-2**] 14:44 ------

2166-05-03 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Weaned O2
   Allergies:
   Amoxicillin
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Levofloxacin - [**2166-4-30**] 08:14 PM
   Clindamycin - [**2166-5-1**] 04:14 AM
   Vancomycin - [**2166-5-1**] 09:15 AM
   Ceftriaxone - [**2166-5-2**] 08:02 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-5-3**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: -17.8
C (0
   HR: 116 (99 - 128) bpm
   BP: 134/70(86) {113/52(69) - 160/90(107)} mmHg
   RR: 21 (18 - 34) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  1,430 mL
                                                                    120 mL
   PO:
                                                                  1,380 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,540 mL
                                                                    425 mL
   Urine:
                                                                  1,540 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -110 mL
                                                                   -305 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   420 K/uL
   7.3 g/dL
   66 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   8 mg/dL
   101 mEq/L
   139 mEq/L
   23.2 %
   20.5 K/uL
        [image002.jpg]
                             [**2166-5-1**]  12:00 AM
                             [**2166-5-1**]  01:12 AM
                             [**2166-5-1**]  06:15 AM
                             [**2166-5-1**]  05:15 PM
                             [**2166-5-2**]  04:00 AM
                             [**2166-5-2**]  05:12 PM
                             [**2166-5-3**]  04:48 AM
   WBC
   20.1
   19.5
   23.9
   20.5
   Hct
   18.6
   22.8
   22.9
   25.2
   25.0
   23.2
   Plt
   [**Telephone/Fax (3) 9087**]20
   Cr
   1.0
   0.9
   0.8
   0.5
   TropT
   0.05
   0.03
   TCO2
   25
   Glucose
   85
   93
   79
   66
   Other labs: PT / PTT / INR:16.7/33.7/1.5, CK / CKMB /
   Troponin-T:/6/0.03, Differential-Neuts:90.7 %, Lymph:6.5 %, Mono:2.5 %,
   Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, Ca++:8.2 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 9063**] is a 65 year old female with a PMH significant for COPD on
   home O2, GERD, and [**Doctor First Name **] admitted for fall and hypoxia secondary to
   pneumonia.
   .
   # Right-Sided Infiltrates: CXR on admission with RML/RLL infiltrates
   consistent with pneumonia with blood cultures speciated as S.pneumoniae
   with sensitivities pending.  Oxygen requirement improving now on 6L nc.
   - Continue levofloxacin and ceftriaxone pending sensitivities. Plan to
   narrow coverage to ceftriaxone (Legionella urinary antigen negative) if
   cephalosporin sensitive.
   - F/u culture data
   - Continue breathing treatments
   - Wean supplemental O2 as tolerated with goal SaO2>90%
   - Speech and swallow when stable
   .
   # Sepsis/tachycardia: Patient remains tachycardic. Leukocytosis this AM
   stable. Otherwise hemodynamically stable with normalized lactate after
   volume rescucitation.  Persistent tachycardia in setting of severe
   multi-lobar pneumonia likely related to infection. Low suspicion for
   PE.
   - Antimicrobials as above.
   - Trend WBC and fever curve
   - Trend UOP.
   - Goal TBB even to -500 today.
   - Check TSH
   .
   # Anemia: History of iron deficiency anemia, confirmed on labs in [**2162**].
   Previously on iron that was stopped for unclear reasons. No colonoscopy
   in our system, but patient has had a history of UGI bleed. Guaiac
   negative in the ED. Patient received 1 unit PBRC during LOS. Serum
   Fe/TIBC 3%. Hct this AM 23.2 from 25 yesterday PM.
   - Maintain active T+S
   - Continue supplemental ferrous sulfate
   - Outpatient colonoscopy
   - Guaiac stools
   .
   # Acute Renal Failure: Resolved with fluid challenge.
   - Trend creatinine and UOP.
   .
   # Elevated troponins: Unchanged ECG, CK flat with TnT down to 0.03 from
   0.05.  Likely component of demand ischemia in setting of sepsis with
   baseline anemia.
   - Monitor on telemetry
   - Continue ASA
   .
   # Anxiety/Depression: Patient seems to have significant anxiety judging
   by various medications.  Patient has significant benzo requirement
   concerning for withdrawal.
   - Continue Celexa, Quetiapine and Duloxetine.
   - Ativan 2 mg QID for anxiety or signs of withdrawal.
   .
   # S/P Falls: Appears multifactorial - decreased vision, non-compliance
   with walker, complicated by oxygen tubing and likely acutely worsened
   in the setting of brewing infection. CT head and c-spine without
   bleeding or fractures.
   - PT eval when clinically stable
   - Patient may unsafe to return to independent living.
   .
   FEN: Mechanical softs. Replete as necessary.
   PPx: Heparin SQ
   Code: Full (confirmed with patient)
   Contact: [**Name (NI) 53**]
   Dispo: ICU level of care until respiratory status stabilizes)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-4-30**] 09:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-05-04 05:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Micro lab - full sensitivities by tomorrow afternoon. If not posted,
   call by 3pm. Prelim sensitive to meropenem.
   - Persisently tachycardic trending down to 100-110s.
   - Hct 25->23->22, 1 unit PRBC
   Allergies:
   Amoxicillin
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2166-5-1**] 09:15 AM
   Ceftriaxone - [**2166-5-3**] 08:25 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-5-4**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.2
   HR: 116 (98 - 131) bpm
   BP: 128/75(88) {79/60(64) - 145/116(123)} mmHg
   RR: 25 (18 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    730 mL
                                                                    180 mL
   PO:
                                                                    680 mL
                                                                    180 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,080 mL
                                                                      0 mL
   Urine:
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -350 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   402 K/uL
   7.0 g/dL
   92 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.2 mEq/L
   5 mg/dL
   100 mEq/L
   140 mEq/L
   22.2 %
   21.8 K/uL
        [image002.jpg]
                             [**2166-5-1**]  12:00 AM
                             [**2166-5-1**]  01:12 AM
                             [**2166-5-1**]  06:15 AM
                             [**2166-5-1**]  05:15 PM
                             [**2166-5-2**]  04:00 AM
                             [**2166-5-2**]  05:12 PM
                             [**2166-5-3**]  04:48 AM
                             [**2166-5-4**]  04:24 AM
   WBC
   20.1
   19.5
   23.9
   20.5
   21.8
   Hct
   18.6
   22.8
   22.9
   25.2
   25.0
   23.2
   22.2
   Plt
   [**Telephone/Fax (3) 9087**]20
   402
   Cr
   1.0
   0.9
   0.8
   0.5
   0.5
   TropT
   0.05
   0.03
   TCO2
   25
   Glucose
   85
   93
   79
   66
   92
   Other labs: PT / PTT / INR:16.7/33.7/1.5, CK / CKMB /
   Troponin-T:/6/0.03, Differential-Neuts:90.7 %, Lymph:6.5 %, Mono:2.5 %,
   Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 9063**] is a 65 year old female with a PMH significant for COPD on
   home O2, GERD, and [**Doctor First Name **] admitted for fall and hypoxia secondary to
   pneumonia.
   .
   # Right-Sided Infiltrates: CXR on admission with RML/RLL infiltrates
   consistent with pneumonia with blood cultures speciated with
   pneumococcus.  Oxygen requirement stable at 6L nc.
   - Continue levofloxacin and ceftriaxone pending sensitivities. Plan to
   narrow coverage to ceftriaxone (Legionella urinary antigen negative) if
   cephalosporin sensitive.
   - F/u culture data
   - Continue breathing treatments
   - Wean supplemental O2 as tolerated with goal SaO2>90%
   - Speech and swallow eval
   - Goal TBB even to -500 for day
   .
   # Tachycardia: Patient remains tachycardic although trending down
   slightly. Leukocytosis this AM stable. Persistent tachycardia in
   setting of severe multi-lobar pneumonia likely related to infection,
   although other potential etiologies include pain,benzo withdrawal, and
   anemia. Low suspicion for PE, and hyperthyroid unlikely given TSH.
   - Antimicrobials as above
   - Oxycodone for pain
   - Ativan standing and PRN for benzo withdrawal.
   - Transfuse 1 unit PRBC and assess for improvement in oxygenation and
   tachycardia.
   .
   # Anemia: Hematocrit trending down to 22.2 from 23.2 yesterday.
   - As above, transfuse 1 unit PRBC
   - Maintain active T+S
   - Continue supplemental ferrous sulfate
   - Outpatient colonoscopy
   - Guaiac stools
   .
   # Psych: Patient seems to have significant anxiety judging by various
   medications.  Patient has significant benzo requirement concerning for
   withdrawal.
   - Continue Celexa, Quetiapine and Duloxetine.
   - Ativan 2 mg QID for anxiety or signs of withdrawal.
   .
   # Acute Renal Failure: Resolved with fluid challenge.
   - Trend creatinine and UOP.
   .
   # Elevated troponins: Unchanged ECG, CK flat with TnT down to 0.03 from
   0.05.  Likely component of demand ischemia in setting of sepsis with
   baseline anemia.
   - Monitor on telemetry
   - Continue ASA
   .
   # S/P Falls: Appears multifactorial - decreased vision, non-compliance
   with walker, complicated by oxygen tubing and likely acutely worsened
   in the setting of brewing infection. CT head and c-spine without
   bleeding or fractures.
   - PT eval when clinically stable
   - Patient may unsafe to return to independent living.
   .
   FEN: Mechanical softs. Replete as necessary.
   PPx: Heparin SQ
   Code: Full (confirmed with patient)
   Contact: [**Name (NI) 53**]
   Dispo: ICU level of care until respiratory status stabilizes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-5-3**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: